US04889869
(a) 2-benzyl-3-(2-pyridyl)sulphonyl-propionic acid
233 mg of 2-benzyl-3-(2-pyridyl)sulphonyl-propionic acid ethyl ester are boiled under reflux for 2 hours in 4 ml of 4N HCl. The reaction mixture is diluted with water and extracted with ethyl acetate. The organic phases are washed with water, dried and concentrated by evaporation. The residue is chromatographed by evaporation. The residue is chromatographed on silica gel with eluant H and yields white crystals of the title compound of Rf (I)=0.3.

reactant | 2-benzyl-3-(2-pyridyl)sulphonyl-propionic acid ethyl ester | 233 mg | C(C)OC(C(CS(=O)(=O)C1=NC=CC=C1)CC1=CC=CC=C1)=O | C17H19NO4S
solvent | HCl | 4N, 4 ml | Cl | ClH
solvent | water | O | H2O
product | 2-benzyl-3-(2-pyridyl)sulphonyl-propionic acid | C(C1=CC=CC=C1)C(C(=O)O)CS(=O)(=O)C1=NC=CC=C1 | C15H15NO4S
